Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Expressive aphasia, left hemiplegia
 
Major Surgical or Invasive Procedure:
TPA bolus documented as being given at 20:18 on ___, 
infusion started at 20:25
 
History of Present Illness:
Ms. ___ is an ___ year old, left handed woman with
history of prior TIA (___), HTN, HLD, DM non insulin 
dependent
and mild dementia who presents with acute onset of expressive
aphasia and left sided hemiplegia. History provided by daughter
and granddaughter as patient is unable to provide history. 

The patient was in her usual state of health until 6:30 ___ on
___.  She had just finished dinner with her family, who 
were
together for the holiday.  She then acutely was noted to slump 
in
her chair and become nonverbal.  Her granddaughter assessed her
and noted that she had a left facial droop, and was not moving
the left side.  When asked questions, she was following some
commands on the right side (squeezing hand to command, moving
right leg to command) but could not move the left side to
command.  She was nonverbal.  They pressed her Lifeline and
brought her to ___ for further evaluation.

At ___, vitals were notable for BP 156/91, HR 50 (sinus
bradycardia), RR 15, T 97.7. On arrival, patient was somnolent,
and opened eyes to voice. ED physician notes that patient had
left gaze deviation; no other concern for seizure was noted.
NIHSS per their exam was 24 (level of consciousness 3, LOC
questions 2, LOC commands 2, partial left sided gaze palsy, left
arm for right arm 1, left leg 3, right leg 4, limb ataxia 1,
sensory to, language 3, dysarthria 2). She underwent STAT NCHCT
which revealed decrease in gray-white matter differentiation in
right temporal-parietal area as well as internal capsule 
(ASPECTs
score 7 per my read). CTA H/N revealed occlusion of the R ICA
just distal to the bifurcation, as well as occlusion of proximal
R MCA with minimal to no collateralization. She also had CTA
chest to rule out aortic dissection which was reportedly
negative. Decision made to undergo tPA, given within time window
and no contraindications. tPA bolus documented as being given at
20:18 on ___, infusion started at 20:25. She was 
transferred
to ___ for further care and consideration of thrombectomy. 

Currently, history unable to be obtained from patient due to
mental status. 

Of note:
-Family reports that patient has a history of a TIA in ___.  At that time, she presented with acute onset of
dysarthria, mild expressive aphasia, and tongue numbness that
lasted for several hours.  She was hospitalized at an outside
hospital for about 48 hours, diagnosed with a TIA, and 
discharged
with aspirin.

-At baseline, patient has a history of mild dementia.  She
requires assistance with much of her ADLs, including assistance
bathing, doing household tasks, preparing meals, and managing
finances.  She is independent with walking and does not require
an assistive device.  She is independent with toileting.  She 
has
extensive family support; she lives with her daughter and her
granddaughter serves as her PCA.

 
Past Medical History:
-Prior TIA in ___ (acute onset dysarthria, expressive 
aphasia and tongue numbness), on aspirin 
-HTN
-HLD
-T2 DM, non insulin dependent 
-Mild dementia, requires assistance with ADLs 

 
Social History:
___
Family History:
Non contributory. 
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

PHYSICAL EXAMINATION
Vitals:  T 96.8F, HR 48, BP 162/84, RR 18, O2 98% RA 

General: somnolent, arouses to voice, elderly woman 
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: warm, well perfused; sinus bradycardia on tele 
Pulmonary: breathing non labored on room air
Abdomen: Soft, NT, ND, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Somnolent, eyes open to voice but drift back to
sleep if not repeatedly stimulated. Does not attend to examiner.
Nonverbal. When spoken to in primary language (___),
does move right arm and leg to command but does not follow
midline commands (does not stick out tongue to command). 
- Cranial Nerves: Gaze midline and conjugate. Pupils slightly
anisocoric L 3.5mm-2, R 3-1.5mm and brisk. +Corneal to eyelid
brushing. Difficult to assess facial asymmetry, but no clear
asymmetry noted. Does not BTT b/l. EOMI via oculocephalic 
reflex.
Tongue midline. 
-Sensorimotor: flaccid left hemiplegia. No spontaneous movement
of left arm or leg. Withdraws LUE and LLE to noxious. Moves RUE
and RLE antigravity with stimulation, unable to do
confrontational muscle testing given mental status. 
 - Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Plantar response flexor on R, extensor on L 

- Coordination, Gait unable to assess

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================
Vitals:
Temp: 96.9 (Tm 99.8) 
BP: 158/91 (125-158/73-96) 
HR: 56 (56-83) 
RR: 24 (___)
O2 sat: 96% (96-97) 
O2 delivery: RA  

General physical examination:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination: 
Mental status: 
Patient awake, but with no spontaneous or provoked speech 
output.
Patient does not follow midline or appendicular commands. 
Cranial nerves: 
Patient's pupils with anisocoria with left pupil 3 to 2 mm and
right pupil 2.5 to 1.5 mm.  Extra ocular eye movement intact.
Gaze midline. Left sided facial droop. 
Motor/sensory: 
Patient moves right upper and lower extremity against gravity 
and
reaches for examiner to brace arm.  Patient does not move left
upper and lower extremity spontaneously. Left leg triple flexes
to noxious stimuli. 
Reflexes/coordination/gait: 
Deferred. 

 

 
Pertinent Results:
MRI Brain ___:
1. Study is severely degraded by motion, with nondiagnostic 
susceptibility 
based imaging. 
2. Evolving known right MCA territory acute to subacute infarct 
with interval 
progression of mass effect on right lateral ventricle, without 
definite 
midline shift. 
3. Nonvisualization of right M1 and distal middle cerebral 
artery branch flow voids as described. 
4. While no definite evidence of hemorrhagic transformation 
identified 
examination, please note that hemorrhage is not excluded on the 
basis 
examination.  If clinically indicated, consider noncontrast head 
CT for 
further evaluation. 
  

 
Brief Hospital Course:
Patient is an ___ year left handed female whom presented with 
aphasia and left sided weakness whom was found to have right 
middle cerebral artery stroke likely secondary to new diagnosis 
atrial fibrillation. Patient received TPA, but was not candidate 
for thrombectomy.  Patient was started on apixiban for 
anticoagulation. Patient had feeding tube placed as our swallow 
team determined that she could not safely tolerate oral feeds 
without risk of aspiration. Patient's examination on discharge 
is most significant for aphasia with no verbal output, inability 
to follow commands, and dense left sided weakness. Patient does 
move right upper and lower extremity spontaneously. Patient is 
DNR/DNI, but family would like to continue full medical 
management. 

Patient's blood pressure management has been changed and we are 
discharging her on lisinopril 30 mg daily and have discontinued 
losartan, metoprolol, and triamterene-HCTZ.

Patient had an infected hematoma at PEG placement site and will 
complete a course of antibiotics (ciprofloxacin and 
metronidazole) on ___. 

Patient with oral thrush and is completing a fourteen day course 
of low dose of fluconazole on ___. 

Patient has been scheduled for stroke clinic follow up with Dr. 
___.

===========================================================
 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 14) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - (x) unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO QPM 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
8. Donepezil 10 mg PO DAILY 
9. Ibuprofen 300 mg PO Q8H:PRN Pain - Mild 
10. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days  
3.  Fluconazole 100 mg PO Q24H Duration: 13 Days  
4.  Lisinopril 30 mg PO DAILY  
5.  MetroNIDAZOLE 500 mg PO Q8H Duration: 7 Days  
6.  Donepezil 10 mg PO DAILY  
7.  Ibuprofen 300 mg PO Q8H:PRN Pain - Mild  
8.  MetFORMIN (Glucophage) 500 mg PO QPM  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right sided middle cerebral artery infarction 
Atrial fibrillation 
Infected hematoma at PEG site

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You presented to the hospital with difficulty speaking and left 
sided weakness and were found to have a large stroke on the 
right side of your brain.  We believe that the stroke occurred 
because of an abnormal heart rhythm called atrial fibrillation.  
As we have explained, this abnormal heart rhythm can lead to the 
development of blood clots in the heart that can then travel and 
cause strokes in the brain.  We have started you on a new 
medication called apixiban to prevent blood clots from forming 
and to help to prevent this from happening again.  In addition, 
we determined during this admission that it was unsafe for you 
to eat safely and therefore we have placed a feeding tube in 
your abdomen.  We have discharged you to acute rehabilitation so 
that they can work with you to maximize your potential for 
recovery. 

We have changed up your high blood pressure management and you 
will now take Lisinopril 30 mg daily.  Please do not resume 
taking your losartan, Metoprolol, and Triamterene-HCTZ. 

In addition, we found that you had an infection at the site 
where the feeding tube was placed and you will be completing an 
antibiotic course.  

Thank you for allowing us to care for you, 
___ Neurology

 
Followup Instructions:
___